US05532240
The reaction and procedure were conducted in a similar manner as in Example 24 using 1.1 g of 2-(4-chlorobutyryl)-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one and 1.0 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 0.21 g of 2-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one, m.p. 142°-143° C.

reactant | 2-(4-chlorobutyryl)-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one | 1.1 g | ClCCCC(=O)C1=CC=2C(NCCCC2S1)=O | C12H14ClNO2S
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 1.0 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
product | 2-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one | 0.21 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCC(=O)C2=CC=3C(NCCCC3S2)=O)C=C1 | C24H26FN3O3S
